US08138181B2
Step B: Preparation of 2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-8-((trans)-4-methoxypyrrolidin-3-yloxy)quinoline:
A flask was charged with (trans)-naphthalen-2-ylmethyl 3-methoxy-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidine-1-carboxylate (0.054 g, 0.087 mmol), 2 N HCl (0.1 mL), THF (1 mL), EtOH (1 mL), and 10% Degussa type Pd/C (0.0186 g, 0.0175 mmol), and the reaction mixture was placed under a balloon of H2 and stirred for 3 hours. The reaction was neutralized with saturated NaHCO3 and filtered (GF/F paper). The filter cake was washed with CHCl3 and water. The layers were separated, the aqueous phase was washed with chloroform, and the organic phase was dried over Na2SO4, filtered and condensed. The residue was purified by silica gel chromatography to provide 24 mg of the desired product. MS APCI (+) m/z 435.2 (M+1) detected.

reactant | (trans)-naphthalen-2-ylmethyl 3-methoxy-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidine-1-carboxylate | 0.087 mmol, 0.054 g | CO[C@@H]1CN(C[C@H]1OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C(=O)OCC2=CC1=CC=CC=C1C=C2 | C36H34N4O6
reactant | HCl | 2 N, 0.1 mL | Cl | ClH
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | Pd/C | 0.0175 mmol, 0.0186 g | [Pd] | Pd
solvent | EtOH | 1 mL | CCO | C2H6O
product | 2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-8-((trans)-4-methoxypyrrolidin-3-yloxy)quinoline | 24 mg | COCCOC1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)O[C@@H]2CNC[C@H]2OC | C24H26N4O4
